US06372770B1
(b) 5-Chloro-2-(3,4-dimethoxyphenyl)Benzoxazole
A solution of N-(3,4-dimethoxybenzoyl)-2-hydroxy-5-chloroaniline (5.0 g, 0.015 mol) was heated under reflux for 11 hours in 30 ml o-dichlorobenzene and p-toluenesulfonic acid monohydrate (0.3 g, 15 mmol). The reaction mixture was diluted with dichloromethane and filtered through a pad of alumina (25 g). The solvent was evaporated under reduced pressure and the residue was triturated with petroleum ether and filtered to give 2.7 g of crudeproduct. The material was crystallized from methyl t-butyl ether with charcoal to give 1.35 g of material which was crystallized again from methyl t-butyl ether and sublimed at 130° C. (0.05 mm) to give pure title compound as tan crystals, mp 142-145° C.

reactant | N-(3,4-dimethoxybenzoyl)-2-hydroxy-5-chloroaniline | 0.015 mol, 5.0 g | COC=1C=C(C(=O)NC2=C(C=CC(=C2)Cl)O)C=CC1OC | C15H14ClNO4
reactant | p-toluenesulfonic acid monohydrate | 15 mmol, 0.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | o-dichlorobenzene | 30 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-2-(3,4-dimethoxyphenyl)Benzoxazole | 1.35 g | ClC=1C=CC2=C(N=C(O2)C2=CC(=C(C=C2)OC)OC)C1 | C15H12ClNO3
